US07230011B2
By a method similar to Example 45, using 3-(1-methyl-pyridin-4-yl)-5-hydroxy-1H-indole (1.50 g, 6.5 mmol) in dimethylformamide (40 mL), sodium hydride (0.29 g of a 60% dispersion in oil, 7.2 mmol), 2,6-difluorobenzenesulfonyl chloride (1.52 g, 7.2 mmol) provided 1.35 g (51%) of 2,6-difluorobenzenesulfonic acid 3-(1-methylpiperidin-4-yl)-1H-indol-5-ylester as an off-white solid: mp 235-238° C.; MS(ES+): m/e 407.0 (M+1); 1H NMR (400 MHz, dmso-d6): 11.04 (br s, 1H), 7.92-7.82 (m, 1H), 7.42-7.33 (m, 2H), 7.29 (d, 1H, J=8.8 Hz), 7.15 (d, 1H, J=2.0 Hz), 7.06 (d, 1H, J=2.0 Hz), 6.79 (dd, 1H, J=8.8, 1.8 Hz), 2.78 (br d, 2H, J=11.2 Hz), 2.56-2.46 (m, 1H), 2.16 (s, 3H), 1.93 (br t, 2H, J=11.8 Hz), 1.74-1.64 (m, 2H), 1.60-1.46 (m, 2H).

reactant | 3-(1-methyl-pyridin-4-yl)-5-hydroxy-1H-indole | 6.5 mmol, 1.50 g | CN1CC=C(C=C1)C1=CNC2=CC=C(C=C12)O | C14H14N2O
reactant | 2,6-difluorobenzenesulfonyl chloride | 7.2 mmol, 1.52 g | FC1=C(C(=CC=C1)F)S(=O)(=O)Cl | C6H3ClF2O2S
solvent | dimethylformamide | 40 mL | CN(C=O)C | C3H7NO
solvent | sodium hydride | [H-].[Na+]
product | 2,6-difluorobenzenesulfonic acid 3-(1-methylpiperidin-4-yl)-1H-indol-5-ylester | 1.35 g, 51% | CN1CCC(CC1)C1=CNC2=CC=C(C=C12)OS(=O)(=O)C1=C(C=CC=C1F)F | C20H20F2N2O3S
